US07932293B2
1-(2-methyl-allyloxy)-hexane:
In a 3000 mL reaction flask was charged 1-hexanol (500 g, 4.9 mol), a 40% by weight in water solution of tetrabutyl ammonium hydroxide (65 g, 0.10 mol), and a 50% by weight solution of NaOH (480 g, 6.6 mol). The mixture was heated to 70° C. and 3-chloro-2-propene (530 g, 5.9 mol) was fed into the reaction over 3 hours. The reaction was aged for 7 hours at 70° C., and then cooled to room temperature. The reaction was quenched with 800 mL of water, and the layers separated. The organic layer washed with 800 mL water and 800 mL of brine. The crude product was purified by distillation to give 550 g of ether, a 72% yield.

reactant | 1-hexanol | 4.9 mol, 500 g | C(CCCCC)O | C6H14O
reactant | tetrabutyl ammonium hydroxide | 0.10 mol, 65 g | [OH-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | NaOH | 6.6 mol, 480 g | [OH-].[Na+]
reactant | 3-chloro-2-propene | 5.9 mol, 530 g | ClC=CC | C3H5Cl
solvent | water | O | H2O
product | 1-(2-methyl-allyloxy)-hexane | 72% yield | CC(COCCCCCC)=C | C10H20O
